US04716168
C. 2-(2-Furyl)-7-methyl-1H-imidazo[4,5-f]quinolin-9-ol
Dowtherm A (500 mL) is preheated to 230° C. and to it is added 3-[[2-(2-furyl)-5-benzimidazolyl]amino]crotonate (38.5 g, 0.1 mol) in small portions. After the addition is complete, the reaction mixture is maintained at 230° C. for 15 min and then poured into a beaker and allowed to cool.

reactant | 3-[[2-(2-furyl)-5-benzimidazolyl]amino]crotonate | 0.1 mol, 38.5 g | O1C(=CC=C1)C=1NC2=C(N1)C=CC(=C2)N\C(=C/C(=O)[O-])\C
solvent | Dowtherm A | 500 mL | C1=CC=C(C=C1)C2=CC=CC=C2.C1=CC=C(C=C1)OC2=CC=CC=C2
product | 2-(2-Furyl)-7-methyl-1H-imidazo[4,5-f]quinolin-9-ol | O1C(=CC=C1)C1=NC=2C(=C3C(=CC(=NC3=CC2)C)O)N1 | C15H11N3O2
